Name:  ___                         Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / ciprofloxacin
 
Attending: ___.
 
Chief Complaint:
Fever, concern for UTI
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y/o female w/ h/o cerebral palsy (paraplegic at baseline), 
bladder atony w/ chronic foley complicated by chronic UTIs 
presents to the ED for evaluation of low-grade fevers. She 
reports that her foley was changed on ___, but says that 
her "foley does not feel right." She reports having decreased 
UOP on yesterday, which resolved and now is having polyuria. Pt 
recalls the EMT that takes care of her, stated her urine is more 
cloudy with increased sediment. In the ED, she complained of 
right sided flank pain.

On note, pt admitted for urosepsis this month. Treated with 
cefepime as has h/o pseudomonal UTI. Not given cipro as adverse 
drug rxn w/ tizanidine (home med for spasticity) including 
hypotension and QTc prolongatoin during that admission.  Urine 
cultures from ___ and ___ both Pseudomonas; has had many UTIs in 
the past, including also E.coli pan-sensitive, Klebsiella 
resistant only to Bactrim, coag negative Staph.

Initial VS in ED 09:45 6 99.2 90 125/86 16 98% RA.  Labs 
significant for UA with 179 WBC, few bacteria, large leuk 
esterase, neg nitrite.  CBC and lytes wnl. Pt has h/o 
pseudomonal UTI so given cefepime 2g IV x1 as has adverse drug 
reaction in past with cipro and her tizanidine.  Received 
diazepam 5mg and tizanidine 2mg in ED.  Foley was changed.

On the floor, VS T 98.3  BP 118/78  HR 56  RR 18  SpO2 100% RA. 
Endorses low-grade fever (99-100), chills, constipation, no 
nausea/vomiting.
 
Review of systems:  
(+) Per HPI.  Also endorses b/l foot swelling, feels "really 
dry," constipation, says she is in "bad shape emotionally."
 
Past Medical History:
1) Spastic cerebral palsy since birth, wheelchair bound with 
chronic foley
2) Asthma 
3) Raynaud's syndrome
4) Anorexia/Bulimia 
5) Chronic UTIs 
6) IBS
7) Eczema    
8) H/o osteoporosis? 
9) PNA (admitted to ___ for 10 days in ___.    
10) Mammoplasty in ___ at ___ c/b ICU stay

 
Social History:
___
Family History:
Father died of pancreatic cancer at age ___. Mother is ___ and in 
federal prison after stealing $20,000 from her. Brother with DM. 
Father had ___.  Also has family history of colon 
cancer at old age, +family h/o prostate cancer.

 
Physical Exam:
Admission PE:
Vitals:  On the floor, VS T 98.3  BP 118/78  HR 56  RR 18  SpO2 
100% RA.
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL  
Neck: supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: no foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred.

Discharge PE:
VS: Tmax/Tcurrent 98.5/98.2  BP 100/68 (100-126/68-72)  HR 76 
(76-84)  RR 20 (___)  SpO2 99% (99-100%) on RA  In/Out 
2920/1000
Gen: NAD
HEENT: EOMI, anicteric.  Scant speck of dried blood vs food on L 
chin.
Neck: L submandibular region focally tender to palpation.  No 
palpable lymphadenopathy.
CV: RRR, no m/g/r
Pulm: CTA anteriorly/laterally
GI: +BS, soft, nontender
Ext: warm, mild edema of b/l feet
Neuro: alert, unable to move legs
Psych: anxious affect, slightly perseverates
Skin: dry
 
Pertinent Results:
Admitting labs:
___ 11:42AM   ___ COMMENTS-GREEN TOP
___ 11:42AM   LACTATE-1.5
___ 11:20AM   GLUCOSE-95 UREA N-9 CREAT-0.6 SODIUM-145 
POTASSIUM-3.9 CHLORIDE-107 TOTAL CO2-28 ANION GAP-14
___ 11:20AM   estGFR-Using this
___ 11:20AM   CALCIUM-9.8 PHOSPHATE-3.2# MAGNESIUM-2.3
___ 11:20AM   WBC-6.0 RBC-4.24 HGB-13.4 HCT-39.0 MCV-92 
MCH-31.5 MCHC-34.3 RDW-12.7
___ 11:20AM   NEUTS-65.2 ___ MONOS-4.2 EOS-2.2 
BASOS-1.0
___ 11:20AM   PLT COUNT-326
___ 11:20AM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 11:20AM URINE  BLOOD-TR NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-LG
___ 11:20AM URINE  RBC-5* WBC-179* BACTERIA-FEW YEAST-NONE 
EPI-1
___ 11:20AM URINE  WBCCLUMP-MOD

Microbiology
___ 11:20 am URINE     Site: NOT SPECIFIED

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      PSEUDOMONAS AERUGINOSA.    10,000-100,000 ORGANISMS/ML.. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             PSEUDOMONAS AERUGINOSA
                             |   
CEFEPIME--------------     8 S
CEFTAZIDIME-----------     4 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------     4 S
LEVOFLOXACIN----------     1 S
MEROPENEM-------------   0.5 S
PIPERACILLIN/TAZO-----     8 S
TOBRAMYCIN------------   <=1 S

Imaging: none new

Discharge labs

___ 06:10AM BLOOD WBC-5.3 RBC-3.40* Hgb-10.6* Hct-31.7* 
MCV-93 MCH-31.3 MCHC-33.6 RDW-12.8 Plt ___
___ 06:10AM BLOOD Glucose-85 UreaN-15 Creat-0.5 Na-137 
K-4.0 Cl-104 HCO3-26 AnGap-11
___ 06:10AM BLOOD Calcium-8.8 Phos-3.3 Mg-2.___ y/o female w/ h/o cerebral palsy (paraplegic at baseline), 
bladder atony w/ chronic foley complicated by chronic UTIs 
presents to the ED for evaluation of low-grade fevers, found to 
have Pseudomonal UTI.

Current Issues:
=================
# UTI: UA WBC 179 with few bacteria on ___.  Preliminary 
urine culture positive for Pseudomonas aeruginosa.  Pt has 
chronic foley due to bladder atonia with h/o recurrent UTI, last 
admission ___ for urosepsis.  Foley catheter was changed in the 
ED on ___.  Pt was treated with cefepime 1 g IV Q12H for UTI.  
Got dose of levofloxacin ___ but in discussion with Pharmacy 
changed to single-agent treatment with cefepime.  Got another 
dose IV cefepime on ___.  On discharge, the plan was to 
continue levofloxacin 750mg PO daily for an additional five 
days.
 
# Depression: Chronic. Pt has had ___way within the 
last year, and she is worried about giving a eulogy at funeral 
in ___ within two weeks for a friend who committed suicide.  
She attends weekly therapy sessions.  Continued on home dosages 
of sertraline and doxepin.  Pt voiced concern over her mental 
health on multiple occasions.  Denied active suicidal 
ideation/homicidal ideation.  

Chronic Issues:
=================
# CP: Patient with chronic pain and spasticity. She was 
continued on tizanadine and PRN diazepam, tramadol, and 
naproxen.

# Asthma: Chronic, stable.  Patient with non-labored breathing 
and normal oxygen saturation.  She was continued on 
fluticasone/salmeterol and ordered albuterol/ipratropium nebs 
PRN.

# Anorexia/bulimia: Pt states poor PO intake, eating only cereal 
and M&Ms.  ___ eager to order dinner on ___. Pt was on regular 
diet.

Transitional Issues:
=====================
# Chronic UTIs: follow-up with PCP ___ ~1 week.  Discuss 
whether to resume Macrobid with PCP.  Also discuss whether or 
not there would be utility to Urology follow-up with PCP.
# Outpatient psychiatry and psychotherapy follow-up as per pt's 
usual routine
# Code status: Do not resuscitate but okay to intubate for <72 
hours
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Doxepin HCl 20 mg PO QAM 
2. Doxepin HCl 10 mg PO HS 
3. Tizanidine 8 mg PO TID 
4. TraMADOL (Ultram) 100 mg PO TID:PRN pain 
5. Fluticasone Propionate 110mcg 2 PUFF IH BID:PRN SOB 
6. Cetirizine *NF* 10 mg Oral daily PRN allergies 
7. Nitrofurantoin Monohyd (MacroBID) 100 mg PO DAILY 
8. Fluticasone-Salmeterol Diskus (100/50) 1 INH IH BID 
Pt's home mid list does not specify dose/frequency 
9. Naproxen 500 mg PO BID:PRN pain 
10. NexIUM *NF* (esomeprazole magnesium) 40 mg Oral BID 
11. Sertraline 100 mg PO DAILY 
12. Ascorbic Acid ___ mg PO BID 
13. Desonide 0.05% Cream 1 Appl TP BID 
14. Diazepam 5 mg PO TID:PRN anxiety 

 
Discharge Medications:
1. Diazepam 5 mg PO TID:PRN anxiety 
2. Doxepin HCl 20 mg PO QAM 
3. Doxepin HCl 10 mg PO HS 
4. Fluticasone-Salmeterol Diskus (100/50) 1 INH IH BID 
5. Naproxen 500 mg PO BID:PRN pain 
6. Sertraline 100 mg PO DAILY 
7. Tizanidine 8 mg PO TID 
8. TraMADOL (Ultram) 100 mg PO TID:PRN pain 
9. Ascorbic Acid ___ mg PO BID 
10. Cetirizine *NF* 10 mg Oral daily PRN allergies 
11. Desonide 0.05% Cream 1 Appl TP BID 
12. Fluticasone Propionate 110mcg 2 PUFF IH BID:PRN SOB 
13. NexIUM *NF* (esomeprazole magnesium) 40 mg Oral BID 
14. Levofloxacin 750 mg PO Q24H Duration: 5 Days 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis: UTI

Secondary: CP
Asthma
Depression
Anorexia
IBS

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Ms. ___,

It was a pleasure meeting and treating you at ___.  You came 
in with complaints of a urinary tract infection.  You were 
treated with cefepime for the infection as well as pyridium for 
bladder discomfort.  You also received Diflucan to cover for a 
yeast infection due to some vaginal itching.

Also, your home medications were continued to treat your chronic 
conditions.  

Please notify your doctor if you develop fevers, bladder 
discomfort or if your urine becomes cloudy or malodorous as 
these may be signs of another urinary tract infection. 
 
Followup Instructions:
___